US08076374B2
Step C. 3-{4-[1-Allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid
A solution of 3-{4-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid methyl ester (0.0438 g, 0.0756 mmol) in THF (1.0 mL) is treated with 1N LiOH (1.0 mL) and stirred overnight at room temperature. The reaction mixture is acidified with 1N HCl (1.1 mL), diluted with water (5 mL), and extracted with EtOAc (3×10 mL). The combined extracts are dried over MgSO4, filtered, and concentrated to provide 0.0105 g (24%) of the title compound as a white solid. MS (ES): 566.4 [M+H]+.

reactant | 3-{4-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid methyl ester | 0.0756 mmol, 0.0438 g | COC(CCNC(C1=CC=C(C=C1)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)CC=C)=O)=O | C34H36F3NO4
reactant | LiOH | 1N, 1.0 mL | [Li+].[OH-]
reactant | HCl | 1N, 1.1 mL | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-{4-[1-Allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid | 0.0105 g, 24% | C(C=C)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C33H34F3NO4
